US04186135
500 cm3 of acetone and a solution of 99 g of dimethylamine in 250 cm3 of acetone were introduced into a balloon flask provided with an agitator and a thermometer. The mixture was cooled to 0° C. and then 139 g of 7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid were introduced. The mixture was agitated at ambient temperature, the acetone distilled off and the residue dissolved in 1 liter of water. The solution was rendered alkaline, filtered and treated with 70 cm3 of hydrochloric acid. The precipitate was dried off, washed and dried. 128 g of 7-dimethylsulfamoyl-1,4-benzodioxane-5-carboxylic acid were obtained (M.P.: 220°-221° C.; yield: 89%).

reactant | dimethylamine | 99 g | CNC | C2H7N
reactant | 7-chlorosulfonyl-1,4-benzodioxane-5-carboxylic acid | 139 g | ClS(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O | C9H7ClO6S
solvent | acetone | 250 cm3 | CC(=O)C | C3H6O
solvent | acetone | 500 cm3 | CC(=O)C | C3H6O
product | 7-dimethylsulfamoyl-1,4-benzodioxane-5-carboxylic acid | 128 g, yield: 89% | CN(S(=O)(=O)C=1C=C(C2=C(OCCO2)C1)C(=O)O)C | C11H13NO6S
